* OVERALL BEST CANDIDATE: 00_Phase_3_3_3V_to_277V_Extreme_Boost_g1_cand3_b7
* FITNESS SCORE: 0.5000
*
* Generated: 2026-06-05T23:41:53
* Constraint: Phase 3: 3.3V to 277V Extreme (Boost)
*   vin_min = 3.0
*   vin_max = 3.6
*   vout_target = 277
*   efficiency_target = 0.92
*   power_in = 200
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 3.3V to 277V Boost
Vin in 0 3.3
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 380
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
